* Z:\mnt\design.r\spice\examples\ADP5301-1.asc
L1 N002 OUT 2.2µ
C1 OUT 0 10µ
R1 OUT N001 1Meg
V1 IN 0 5
Rload OUT 0 80
XU1 IN IN 0 0 OUT N001 0 0 N002 ADP5301 OVO=0 OD=0
.tran .6m startup
.lib ADP5301.sub
.backanno
.end
